US09446130B2
(b) (R)-4-(4-amino-1-(4,5,6,7-tetrahydro-1H-indazol-4-yl)-1H-pyrazolo[3,4-d]pyrimidin-3-yl)-N-(4-(trifluoromethyl)pyridin-2-yl)benzamide
A solution of (R)-4-(4-((2,4-dimethoxybenzyl)amino)-1-(1-tosyl-4,5,6,7-tetrahydro-1H-indazol-4-yl)-1H-pyrazolo[3,4-d]pyrimidin-3-yl)-N-(4-(trifluoromethyl)pyridin-2-yl)benzamide (90 mg, 0.109 mmol) in TFA (3 mL) was stirred for 3 h at 100° C. Removed the solvent and purified by preparative HPLC to give the title compound (30 mg, yield 52.8%).

reactant | (R)-4-(4-((2,4-dimethoxybenzyl)amino)-1-(1-tosyl-4,5,6,7-tetrahydro-1H-indazol-4-yl)-1H-pyrazolo[3,4-d]pyrimidin-3-yl)-N-(4-(trifluoromethyl)pyridin-2-yl)benzamide | 0.109 mmol, 90 mg | COC1=C(CNC2=C3C(=NC=N2)N(N=C3C3=CC=C(C(=O)NC2=NC=CC(=C2)C(F)(F)F)C=C3)[C@H]3C=2C=NN(C2CCC3)S(=O)(=O)C3=CC=C(C)C=C3)C=CC(=C1)OC | C41H36F3N9O5S
solvent | TFA | 3 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | (R)-4-(4-amino-1-(4,5,6,7-tetrahydro-1H-indazol-4-yl)-1H-pyrazolo[3,4-d]pyrimidin-3-yl)-N-(4-(trifluoromethyl)pyridin-2-yl)benzamide | 30 mg, yield 52.8% | NC1=C2C(=NC=N1)N(N=C2C2=CC=C(C(=O)NC1=NC=CC(=C1)C(F)(F)F)C=C2)[C@H]2C=1C=NNC1CCC2 | C25H20F3N9O
